US08865739B2
To a solution of 1-(piperidin-1-yl)butane-1,3-dione (1.08 g, 6.5 mmol) in ethanol (20 ml) at room temperature was added 2-amino-5-chlorophenylacetophenone (1.16 g 5.0 mmol) followed by ytterbium triflate (294 mg, 0.5 mmol). The reaction mixture was stirred at room temperature for 12 hours. The white powdery precipitate that was formed in the reaction mixture was filtered off, washed with ethanol, and dried under reduced pressure to provide (6-chloro-2-methyl-4-phenylquinolin-3-yl)(piperidin-1-yl)methanone (874 mg, 48%) as a white powder. 1H NMR (CDCl3, 400 MHz) δ 8.1 (d, 1H, J=8.6 Hz); 7.67 (dd, 1H, J=8.6, 2.3 Hz); 7.63 (d, 1H, J=2.3 Hz); 7.6-7.5 (m, 4H); 7.33-7.28 (m, 1H); 3.55 (ddd, 1H, J=13.3, 7.4, 3.1 Hz); 3.37 (ddd, 1H, J=13.3, 7.4, 3.1 Hz); 3.05 (ddd, 1H, J=13.3, 7.4, 3.1 Hz); 2.80 (ddd, 1H, J=13.3, 7.4, 3.1 Hz); 2.77 (s, 3H); 1.60-1.2 (m, 5H); 1.0 (m, 1H). LC MS (CI) shows M+H 365.

reactant | 1-(piperidin-1-yl)butane-1,3-dione | 6.5 mmol, 1.08 g | N1(CCCCC1)C(CC(C)=O)=O | C9H15NO2
reactant | 2-amino-5-chlorophenylacetophenone | 5.0 mmol, 1.16 g | NC1=C(C=C(C=C1)Cl)CC(=O)C1=CC=CC=C1 | C14H12ClNO
reactant | ytterbium triflate | 0.5 mmol, 294 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (6-chloro-2-methyl-4-phenylquinolin-3-yl)(piperidin-1-yl)methanone | 874 mg, 48% | ClC=1C=C2C(=C(C(=NC2=CC1)C)C(=O)N1CCCCC1)C1=CC=CC=C1 | C22H21ClN2O
